US09024041B2
Intermediate A27: 3-tert-Butyl-1-(4-(trifluoromethoxy)phenyl)-1H-pyrazol-5-amine
A solution of (4-(trifluoromethoxy)phenyl)hydrazine hydrochloride (1.83 g, 8.01 mmol) and 4,4-dimethyl-3-oxopentanenitrile (1.10 g, 8.81 mmol) in a mixture of conc hydrochloric acid (12 M, 2.0 mL) and EtOH (20 mL) was heated at reflux for 18 hr. The mixture was cooled to RT and was partitioned between aq. NaOH (2.0 M, 50 mL) and ether (100 mL). The organic layer was separated and was washed with brine (100 mL) and then dried and evaporated in vacuo to afford the title compound, Intermediate A27, as a yellow solid (2.22 g, 91%); Rt 2.29 min (Method 2); m/z 300 (M+H)+, (ES+).

reactant | (4-(trifluoromethoxy)phenyl)hydrazine hydrochloride | 8.01 mmol, 1.83 g | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
reactant | 4,4-dimethyl-3-oxopentanenitrile | 8.81 mmol, 1.10 g | CC(C(CC#N)=O)(C)C | C7H11NO
reactant | hydrochloric acid | 12 M, 2.0 mL | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-tert-Butyl-1-(4-(trifluoromethoxy)phenyl)-1H-pyrazol-5-amine | C(C)(C)(C)C1=NN(C(=C1)N)C1=CC=C(C=C1)OC(F)(F)F | C14H16F3N3O
